US08685975B2
To a solution of 4-(2H-1,2,3-triazol-2-yl)benzaldehyde (1.0 g, 5.77 mmol) in anhydr MeOH (15 mL) at 0° C. (bath temperature) was added bromoform (1.82 g, 7.21 mmol) with stirring. Solid KOH (1.62 g, 28.9 mmol) was added in aliquots over a period of 10 min. The mixture was stirred for 1 hour and the cold bath was removed. After stirring for 30 min, the reaction was allowed to warm slowly to room temperature overnight then concentrated to dryness. After dissolving in a minimum amount of H2O, the residue was acidified to pH 1 with 6 M HCl. The aqueous mixture was extracted with EtOAc several times with the addition of brine to the aqueous layer during extraction. The combined organics were washed with brine, dried over Na2SO4 and concentrated in vacuo to give 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-2-methoxyacetic acid as an oil (1.19 g, 88% yield). The product was used without further purification.

reactant | 4-(2H-1,2,3-triazol-2-yl)benzaldehyde | 5.77 mmol, 1.0 g | N=1N(N=CC1)C1=CC=C(C=O)C=C1 | C9H7N3O
reactant | bromoform | 7.21 mmol, 1.82 g | C(Br)(Br)Br | CHBr3
reactant | KOH | 28.9 mmol, 1.62 g | [OH-].[K+]
reactant | MeOH | 15 mL | CO | CH4O
product | 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-2-methoxyacetic acid | 1.19 g, 88% yield | N=1N(N=CC1)C1=CC=C(C=C1)C(C(=O)O)OC | C11H11N3O3
